US08455646B2
Preparation of 4-methyl-phenyl-amino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C245)
To a solution of 4-methyl-phenyl-amino-phenyl-acetic acid (I244) (870 mg, 3.60 mmol) in dry THF (35 mL), are added DCC (891 mg, 4.32 mmol), HOBt (583 mg, 4.32 mmol) and 3(R)-quinuclidinol (915 mg, 7.20 mmol). The resulting mixture is stirred at RT for 48 hours (UPLC-MS monitoring: complete conversion). The solvent is evaporated and the residue is portioned between EtOAc and 1M K2CO3. The organic phase is dried over Na2SO4, filtered and evaporated to dryness. The resulting crude is dissolved in little DCM and filtered to remove the insoluble. The solution is concentrated under vacuum to obtain the title compound as a yellow solid, which is used in the next step without any further purification.

reactant | 4-methyl-phenyl-amino-phenyl-acetic acid | 3.60 mmol, 870 mg | CC1=CC=C(C=C1)C(C(=O)O)(C1=CC=CC=C1)N | C15H15NO2
reactant | DCC | 4.32 mmol, 891 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 4.32 mmol, 583 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3(R)-quinuclidinol | 7.20 mmol, 915 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 4-methyl-phenyl-amino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)(N)C2=CC=C(C=C2)C)=O | C22H26N2O2
